US05128355
Part A: Preparation of 2-(But-1-en-1-yl)-5-t-butyldimethylsilyloxymethyl-1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-4-chloroimidazole
2-(But-1-en-1-yl)-1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-4-chloro-5-(hydroxymethyl)-imidazole (1.4 g), t-butyldimethylsilyl chloride (0.55 g), and imidazole (0.5 g) were mixed and stirred in DMF (5 mL) for 18 hours at room temperature. Dilution with ethyl acetate and washing the organic phase with water followed by drying (MgSO4), evaporation of the solvent in vacuo, and flash chromatography in 3:1 hexane/ethyl acetate yielded 1.5 g of a clear oil. NMR (200 MHz, CDCl3) δ 7.83 (d, 1H); 7.52 (t, 1H); 7.40 (t, 1H); 7.33-7.24 (m, 3H); 7.08 (d, 2H); 6.83 (d of t, 1H); 6.13 (d, 1H); 5.30 (s, 2H); 4.57 (s, 2H); 3.64 (s, 3H); 2.21 (quint. 2H); 1.04 (t, 3H); 0.86 (s, 9H); 0.05 (s, 6H).

reactant | 2-(But-1-en-1-yl)-1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-4-chloro-5-(hydroxymethyl)-imidazole | 1.4 g | C(=CCC)C=1N(C(=C(N1)Cl)CO)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C23H23ClN2O3
reactant | t-butyldimethylsilyl chloride | 0.55 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.5 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(But-1-en-1-yl)-5-t-butyldimethylsilyloxymethyl-1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-4-chloroimidazole | 1.5 g | C(=CCC)C=1N(C(=C(N1)Cl)CO[Si](C)(C)C(C)(C)C)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C29H37ClN2O3Si
